US05252536
Preparation of N-(5-Fluoro-2-oxo-6-indolinyl)-1-cyclohexene-1,2-dicarboximide
A mixture of 6-amino-5-fluoro-2-indolinone (10.5 g, 63.25 mmol) and tetrahydrophthalic anhydride (10.95 g, 66.42 mmol) in acetic acid (30 mL) is heated at reflux for 2 hours, cooled and concentrated in vacuo to obtain a residue. Chromatography of the residue using silica gel and a 3:7 ethyl acetate/methylene chloride solution gives the title product as a light violet solid (14.7 g, mp 234°-236° C.). Following the procedure of Example 3, but substituting 6-amino-2-indolinone for 6-amino-5-fluoro-2-indolinone gives N-(2-oxo-6-indolinyl)-1-cyclohexene-1,2-dicarboximide as a green solid, mp 225°-226° C.

reactant | 6-amino-5-fluoro-2-indolinone | 63.25 mmol, 10.5 g | NC1=C(C=C2CC(NC2=C1)=O)F | C8H7FN2O
reactant | tetrahydrophthalic anhydride | 66.42 mmol, 10.95 g | C1(C2C(C(=O)O1)CCC=C2)=O | C8H8O3
reactant | ethyl acetate methylene chloride | C(C)(=O)OCC.C(Cl)Cl
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | N-(5-Fluoro-2-oxo-6-indolinyl)-1-cyclohexene-1,2-dicarboximide | 14.7 g | FC=1C=C2CC(NC2=CC1N1C(=O)C2=C(CCCC2)C1=O)=O | C16H13FN2O3
